US07361763B2
To a solution of (3-(1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)(morpholino)methanone (550 mg, 1.79 mmol) in acetone (10 mL) was added NIS (604 mg, 2.68 mmol) and the mixture was stirred at room temperature for 20 minutes. Acetone was removed by reduced pressure and the crude product was purified by silica gel chromatography to afforded (3-(3-iodo-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)(morpholino)methanone (600 mg, 77% yield). MS: m/z 434.2 (M+H+).

reactant | (3-(1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)(morpholino)methanone | 1.79 mmol, 550 mg | N1C=CC=2C1=NC=C(C2)C=2C=C(C=CC2)C(=O)N2CCOCC2 | C18H17N3O2
reactant | NIS | 2.68 mmol, 604 mg | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | (3-(3-iodo-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)(morpholino)methanone | 600 mg, 77% yield | IC1=CNC2=NC=C(C=C21)C=2C=C(C=CC2)C(=O)N2CCOCC2 | C18H16IN3O2
